US04176184
(a) 4,4-Dimethyl-7-(cyclopropylcarbonyl-amino)-8-nitro-2H,4H-isoquinoline-1,3-dione
Prepared analogous to Example 1b from 5.8 gm of 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione and 6.3 gm of cyclopropane carboxylic acid chloride (heating time: 30 hours).

reactant | 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione | 5.8 gm | CC1(C(NC(C2=C(C(=CC=C12)NC(=O)C)[N+](=O)[O-])=O)=O)C | C13H13N3O5
reactant | cyclopropane carboxylic acid chloride | 6.3 gm | C1(CC1)C(=O)Cl | C4H5ClO
product | 4,4-Dimethyl-7-(cyclopropylcarbonyl-amino)-8-nitro-2H,4H-isoquinoline-1,3-dione | CC1(C(NC(C2=C(C(=CC=C12)NC(=O)C1CC1)[N+](=O)[O-])=O)=O)C | C15H15N3O5
